US07994315B2
A borane-tetrahydrofuran complex (1.0 M solution in tetrahydrofuran, 60 ml, 60 mmol) was added dropwise over 15 min to a (S)—CBS solution ((S)-2-methyl-CBS-oxazaborolidine, 12 ml, 1.0 M solution in toluene) at −30° C., and the mixture was stirred for 15 min. A solution of 4-fluorophenacyl chloride (10.4 g, 60 mmol) in dichloromethane (16 ml) was added dropwise over 60 min keeping the temperature −32° C. to −28° C. After stirring for 1 hr, the solution was allowed to warm to room temperature, and methanol (20 ml) was added slowly and then 1 M hydrochloric acid (120 ml) was added dropwise over 10 min. The reaction mixture was filtered after stirring for 40 min, and the filtrate was extracted with ethyl acetate. The combined organic layer was washed successively with 1 M hydrochloric acid and brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give 2-chloro-(1S)-1-(4-fluorophenyl)ethanol (10.4 g) as a colorless oil.

reactant | borane tetrahydrofuran | 60 mmol, 1.0 M, 60 ml | B.O1CCCC1
reactant | (S)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | 4-fluorophenacyl chloride | 60 mmol, 10.4 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
reactant | hydrochloric acid | 1 M, 120 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 2-chloro-(1S)-1-(4-fluorophenyl)ethanol | 10.4 g | ClC[C@@H](O)C1=CC=C(C=C1)F | C8H8ClFO
